US07659268B2
To a stirred solution of methyl 3-amino-5-bromobenzoate (5.2 g, 23 mmol) in water (80 mL) and H2SO4 (60 mL) was added dropwise a solution of NaNO2 (1.9 g, 28 mmol) in water (10 mL) at 0° C. The reaction mixture was added to a mixture of water (180 mL) and H2SO4 (240 mL). The mixture was heated at reflux for 30 minutes before being cooled to room temperature. The resulting mixture was poured into crushed ice and extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with brine and water, dried over anhydrous Na2SO4, and concentrated under vacuum to afford 3-bromo-5-hydroxybenzoic acid (3.8 g, 78% yield), which was directly used in next step. 1H NMR (400 MHz, d-DMSO) δ 10.27 (s, 1H), 7.43 (t, J=1.6 Hz, 1H), 7.28 (dd, J=1.2, 2.0 Hz, 1H), 7.15 (t, J=2.0 Hz, 1H).

reactant | methyl 3-amino-5-bromobenzoate | 23 mmol, 5.2 g | NC=1C=C(C(=O)OC)C=C(C1)Br | C8H8BrNO2
reactant | NaNO2 | 28 mmol, 1.9 g | N(=O)[O-].[Na+]
solvent | water | 80 mL | O | H2O
solvent | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
solvent | water | 10 mL | O | H2O
solvent | H2SO4 | 240 mL | OS(=O)(=O)O | H2O4S
solvent | water | 180 mL | O | H2O
product | 3-bromo-5-hydroxybenzoic acid | 3.8 g, 78% yield | BrC=1C=C(C(=O)O)C=C(C1)O | C7H5BrO3
